US07807708B2
In a 50 mL three-necked flask under a nitrogen atmosphere, equipped with a magnetic stirrer, 900 mg (1.46 mmol) of ethyl 3″-tert-butyl-4″-diethylamino-4′-[3-(1,3-dioxo-1,3-dihydroisoindol-2-yl)propyl]-[1,1′;3′,1″]terphenyl-4-carboxylate and 292 mg (5.8 mmol) of hydrazine hydrate are placed in 20 mL of ethanol. The reaction medium is heated to the reflux point of the ethanol for 20 hours and then filtered; the filtrate obtained is evaporated and then purified directly on a column of silica (eluent: 94/6 dichloromethane/methanol) to give, after evaporation of the purest fractions, 545 mg of ethyl 3″-tert-butyl-4′-(3-aminopropyl)-4″-diethylamino[1,1′;3′,1″]terphenyl-4-carboxylate (yield=77%) in the form of a colorless oil.

reactant | ethyl 3″-tert-butyl-4″-diethylamino-4′-[3-(1,3-dioxo-1,3-dihydroisoindol-2-yl)propyl]-[1,1′;3′,1″]terphenyl-4-carboxylate | 1.46 mmol, 900 mg | C(C)(C)(C)C=1C=C(C=CC1N(CC)CC)C=1C=C(C=CC1CCCN1C(C2=CC=CC=C2C1=O)=O)C1=CC=C(C=C1)C(=O)OCC | C40H44N2O4
reactant | hydrazine hydrate | 5.8 mmol, 292 mg | O.NN
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | ethyl 3″-tert-butyl-4′-(3-aminopropyl)-4″-diethylamino[1,1′;3′,1″]terphenyl-4-carboxylate | 545 mg, yield=77% | C(C)(C)(C)C=1C=C(C=CC1N(CC)CC)C=1C=C(C=CC1CCCN)C1=CC=C(C=C1)C(=O)OCC | C32H42N2O2
